US04396621
De-oiled sodium hydride, obtained by de-oiling 0.82 g of a 50% suspension in mineral oil, was added at 10° to a solution of 3 g of 6-chloro-2,3-dihydro-2-oxo-benzo[b]thiophen and 3.85 g of phenyl N-(2-thiazolyl)-carbamate in 30 ml of hexamethylphosphoric acid triamide. After a few minutes, the cooling bath is removed and the mixture is stirred for a further 2 hours at room temperature. The reaction mixture is poured into a mixture of 1 liter of ice-water and 20 ml of concentrated hydrochloric acid, the precipitate is filtered off with suction and washed successively with ice-water, diethyl ether and hexane and taken up in 50 ml of acetone, the acetone solution is heated under reflux, allowed to cool, diluted with 100 ml of diethyl ether and cooled for some time in an ice bath and the precipitate is again filtered off with suction. N-(2-Thiazolyl)-6-chloro-2-oxo-2,3-dihydro-benzo[b]thiophen-3-carboxamide with a melting point of 276°-289° is obtained.

reactant | 6-chloro-2,3-dihydro-2-oxo-benzo[b]thiophen | 3 g | ClC=1C=CC2=C(SC(C2)=O)C1 | C8H5ClOS
reactant | phenyl N-(2-thiazolyl)-carbamate | 3.85 g | S1C(=NC=C1)NC(OC1=CC=CC=C1)=O | C10H8N2O2S
solvent | hexamethylphosphoric acid triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | N-(2-Thiazolyl)-6-chloro-2-oxo-2,3-dihydro-benzo[b]thiophen-3-carboxamide | S1C(=NC=C1)NC(=O)C1C2=C(SC1=O)C=C(C=C2)Cl | C12H7ClN2O2S2
